US07468371B2
2-iodo-1-benzofuran
To a solution of benzofuran (3.0 g, 25.4 mmol) in tetrahydrofuran (36 mL) at about −78° C. was added a 2.5M solution of n-butyllithium in hexanes (10.2 mL, 25.4 mmol). The solution was allowed to warm to about −10° C. and was stirred for about 2 hours. Iodine (6.41 g, 25.4 mmol) was added gradually and the mixture was stirred at about −10° C. for about 30 min. The solution was allowed to warm to room temperature, was quenched by the addition of aqueous ammonium chloride, and was extracted with diethyl ether. The combined organic extracts were washed with aqueous sodium bisulfite and brine, dried (MgSO4), filtered and concentrated under vacuum. The resulting oil was distilled (b.p. 90° C./1.05 mm Hg) to provide Example 651. 1H NMR (300 MHz, CDCl3): δ 6.93 (s, 1H), 7.20 (m, 2H), 7.48 (m, 2H).

reactant | benzofuran | 25.4 mmol, 3.0 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | n-butyllithium | C(CCC)[Li]
reactant | Iodine | 25.4 mmol, 6.41 g | II | I2
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | 2-iodo-1-benzofuran | IC=1OC2=C(C1)C=CC=C2 | C8H5IO
